US04948898
37.0 g (77.3 mmol) of ethyl rac-cis-1-(2,4-dimethoxybenzyl)-β-methyl-4-oxo-3-phthalimido-2-azetidineacrylate are dissolved in 500 ml of methylene chloride and the solution is treated with 8.2 ml (0.15 mmol) of N-methylhydrazine at 30° C. for 48 hours. The mixture is filtered and the filtrate is evaporated. The residue is taken up in ethyl acetate and filtered. The filtrate is extracted with 200 ml of aqueous hydrochloric acid and the aqueous phase is separated, neutralized with saturated aqueous sodium bicarbonate solution and extracted twice with 200 ml of methylene chloride each time. After drying and evaporation, the crude colourless product is isolated. There are obtained 25.1 g (93%) of ethyl rac-cis-3-amino-1-(2,4-dimethoxybenzyl)-β-methyl-2-oxo-4-azetidineacrylate of melting point 89°-93° C.

reactant | ethyl rac-cis-1-(2,4-dimethoxybenzyl)-β-methyl-4-oxo-3-phthalimido-2-azetidineacrylate | 77.3 mmol, 37.0 g | COC1=C(CN2[C@H]([C@H](C2=O)N2C(C=3C(C2=O)=CC=CC3)=O)C(=CC(=O)OCC)C)C=CC(=C1)OC | C26H26N2O7
reactant | N-methylhydrazine | 0.15 mmol, 8.2 ml | CNN | CH6N2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | ethyl rac-cis-3-amino-1-(2,4-dimethoxybenzyl)-β-methyl-2-oxo-4-azetidineacrylate | 25.1 g, 93% | N[C@@H]1C(N([C@@H]1C(=CC(=O)OCC)C)CC1=C(C=C(C=C1)OC)OC)=O | C18H24N2O5
